US07060827B2
In a manner similar to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine, 2-chloro-5-fluoro-N4-(2-hydroxy-2-phenylethyl)-4-pyrimidineamine and 3,4-ethylenedioxyaniline were reacted to yield N2-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(2-hydroxy-2-phenylethyl)-2,4-pyrimidinediamine. 1H NMR (CDCl3): δ 7.79 (s, 1H), 7.48 (m, 5H), 6.89–6.71 (m, 3H), 5.41–5.38, 4.97 (dd, 1H, J=3.6 and 7.5 Hz), 4.28–4.22 (m, 4H), 3.88 (ddd, 1H, J=4.2, 7.2, and 14.1), 3.64–3.55 (m, 1H); 19F NMR (CDCl3): −47910; LCMS: ret. time: 20.47 min.; purity: 88%; MS (m/e): 383 (MH).

reactant | N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC(=NC=C1F)NC1=CC(=CC=C1)O | C18H15FN4O3
reactant | 2-chloro-5-fluoro-N4-(2-hydroxy-2-phenylethyl)-4-pyrimidineamine | ClC1=NC=C(C(=N1)NCC(C1=CC=CC=C1)O)F | C12H11ClFN3O
reactant | 3,4-ethylenedioxyaniline | C1OC=2C=C(N)C=CC2OC1 | C8H9NO2
product | N2-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(2-hydroxy-2-phenylethyl)-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)N(C1=NC=C(C(=N1)N)F)CC(C1=CC=CC=C1)O | C20H19FN4O3
